US06365602B1
g) 3-Trifluoromethyl-1-naphthoyl chloride
A mixture containing 3-trifluoromethyl-1-naphthoic acid (0.10 g) and dry DCM (5 mL) was treated with oxalyl chloride (0.065 g) at 25° C. A catalytic amount of DMF was added, the mixture stirred for 4 hours, then the DCM was removed in vacuo. The solid residue was re-dissolved in dry DCM and used without further purification.

reactant | 3-trifluoromethyl-1-naphthoic acid | 0.10 g | FC(C=1C=C(C2=CC=CC=C2C1)C(=O)O)(F)F | C12H7F3O2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 0.065 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Trifluoromethyl-1-naphthoyl chloride | FC(C=1C=C(C2=CC=CC=C2C1)C(=O)Cl)(F)F | C12H6ClF3O
